US05621084
p-Toluenesulfinic acid (188 ml, 1.20 mmol) was added at room temperature to a solution of N-allyl-N-pentylphenylamine(221 mg, 1.08 mmol) and tetrakis(triphenylphosphine)palladium(87.8 mg, 75.9 μmol) in dichloromethane(11 ml). The reaction mixture was stirred at room temperature for 60 minutes and saturated aqueous sodium hydrogen carbonate(6.8 ml) was added. After stirred for 5 minutes, the mixture was extracted with ether(80 ml). The extract was dried on magnesium sulfate, filterd and concentrated in vacuum. The residue was chromatographed on silica gel to give N-pentylphenylamine(164 mg) in 93% yield as a colorless oil.

reactant | p-Toluenesulfinic acid | 1.20 mmol, 188 ml | C1(=CC=C(C=C1)S(=O)O)C | C7H8O2S
reactant | N-allyl-N-pentylphenylamine | 1.08 mmol, 221 mg | C(C=C)N(CCCCC)C1=CC=CC=C1 | C14H21N
reactant | sodium hydrogen carbonate | 6.8 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 11 ml | ClCCl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium | 75.9 μmol, 87.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-pentylphenylamine | 164 mg, 93% yield | C(CCCC)NC1=CC=CC=C1 | C11H17N
